US08334456B2
Preparation of 4,8-didodecyl-2,6-bis-trimethylstannylbenzo[1,2-b:4,5-b′]dithiophene
Preparation of 4,8-didodecyl-2,6-Bis-trimethylstannylbenzo[1, 2-1):4,5-b′]dithiophene. To a solution of 4,8-didodecylbenzo[1,2-b:4,5-b′]dithiophene (553 mg, 1.05 mmol) in dry tetrahydrofuran (16 mL) was added n-butyllithium (2.5 M in hexane, 0.92 mL, 2.31 mmol) at −78° C. After 1 hour, trimethyltin chloride (488 mg, 2.45 mmol) was added in one portion. The mixture was stirred at room temperature for 2 hours, poured into water and extracted with ether three times. The organic layer was washed with brine and dried over anhydrous MgSO4. Upon evaporating the solvent, a pale yellow oil was obtained which is recrystallized from EtOH to give a white solid (524 mg, yield 58%). 1H NMR (CDCl3, 500 MHz) δ=7.51 (s, 2H), 3.22 (t, J=8.0 Hz, 4H), 1.76-1.91 (m, 4H), 1.36-1.42 (m, 4H), 1.22-1.42 (bs, 32H), 0.91 (t, J=7.0 Hz, 6H), 0.47 (s, 18 H). See also, Chem. Mater. 2006, 18, 3237.

reactant | 4,8-didodecylbenzo[1,2-b:4,5-b′]dithiophene | 1.05 mmol, 553 mg | C(CCCCCCCCCCC)C1=C2C(SC=C2)=C(C2=C1SC=C2)CCCCCCCCCCCC | C34H54S2
reactant | n-butyllithium | 2.31 mmol, 2.5 M, 0.92 mL | C(CCC)[Li]
reactant | trimethyltin chloride | 2.45 mmol, 488 mg | C[Sn](C)(C)Cl
reactant | water | O | H2O
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
product | 4,8-didodecyl-2,6-bis-trimethylstannylbenzo[1,2-b:4,5-b′]dithiophene | 524 mg, yield 58% | C(CCCCCCCCCCC)C1=C2C(SC(=C2)[Sn](C)(C)C)=C(C2=C1SC(=C2)[Sn](C)(C)C)CCCCCCCCCCCC | InChI=1S/C34H52S2.6CH3.2Sn/c1-3-5-7-9-11-13-15-17-19-21-23-29-31-25-27-36-34(31)30(32-26-28-35-33(29)32)24-22-20-18-16-14-12-10-8-6-4-2;;;;;;;;/h25-26H,3-24H2,1-2H3;6*1H3;;
